US04034090
A solution of iodomethyl pivalate (8.65 g.) in dimethylformamide (70 cc.) is added to a solution of the sodium salt of 2-carboxy-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (18.2 g.) in dimethylformamide (115 cc.) over the course of 15 minutes, whilst maintaining the temperature at 5° C. The mixture is allowed to react for one hour at 5° C. and is then concentrated to dryness under reduced pressure (0.5 mm Hg). The residue is taken up in ethyl acetate (500 cc.). The mixture is washed successively with water (600 cc.), a saturated aqueous sodium bicarbonate solution (500 cc.) and water (900 cc.). It is dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg). The residue obtained is chromatographed on silica (450 g.), elution being carried out successively with a mixture of cyclohexane and ethyl acetate (6/4 by volume) (1 liter) and then with a mixture of cyclohexane and ethyl acetate (4/6 by volume) (4 liters). The eluates are concentrated to dryness under reduced pressure (20 mm Hg). A residue (12.7 g.) is obtained in the form of a frothy solid which is crystallised from a mixture of ethyl acetate and ether (1/1 by volume) (120 cc.). A white crystalline product (7.4 g.) is obtained, which when dried at 30° C. under 0.5 mm Hg retains about 3% of ethyl acetate. The product is treated overnight with water (250 cc.) while stirring and the crystals are filtered off and then dried (35° C.-0.5 mm Hg). 3-[(1-Methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-2-pivaloyloxymethoxycarbonyl-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (6.6 g.), m.p. 100° C. is thus obtained. [α]D20 = -21.6° ± 0.8° (c= 1, dimethylformamide).

reactant | iodomethyl pivalate | 8.65 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | sodium | [Na] | Na
reactant | 2-carboxy-3-[(1-methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 18.2 g | C(=O)(O)C=1N2C(C(C2SCC1CSC1=NN=NN1C)NC(CC=1SC(SC1)=O)=O)=O | C15H14N6O5S4
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 115 cc | CN(C=O)C | C3H7NO
product | 3-[(1-Methyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-2-pivaloyloxymethoxycarbonyl-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 6.6 g | CN1N=NN=C1SCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)OCOC(C(C)(C)C)=O | C21H24N6O7S4
